US07351719B2
Z1c) 2-bromo-N-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-acetamide-hydrobromide
A solution of 1.86 mL (21.00 mmol) of bromoacetylbromide in 10 mL of dichloromethane was added dropwise to a solution of 5.00 g (21.00 mmol) of 3-chloro-4-(2-diethylamino-ethoxy)-phenylamine. in 100 mL of dichloromethane at 0° C. and the mixture was stirred for 20 minutes at 0° C. The precipitate formed was filtered off, washed with dichloromethane and MTBE and dried i. vac. at 40° C.

reactant | bromoacetylbromide | 21.00 mmol, 1.86 mL | BrCC(=O)Br | C2H2Br2O
reactant | 3-chloro-4-(2-diethylamino-ethoxy)-phenylamine | 21.00 mmol, 5.00 g | ClC=1C=C(C=CC1OCCN(CC)CC)N | C12H19ClN2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-bromo-N-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-acetamide-hydrobromide | Br.BrCC(=O)NC1=CC(=C(C=C1)OCCN(CC)CC)Cl | InChI=1S/C14H20BrClN2O2.BrH/c1-3-18(4-2)7-8-20-13-6-5-11(9-12(13)16)17-14(19)10-15;/h5-6,9H,3-4,7-8,10H2,1-2H3,(H,17,19);1H
